US07956191B2
3-[(4-Bromo-2-methylphenyl)amino]isonicotinic acid (2b)
4-Bromo-2-methylaniline (186 mg, 1.00 mmol) and 3-fluoropyridine-4-carboxylic acid (141 mg, 1.00 mmol) were dissolved in dry THF (6.0 ml) under argon and the mixture was cooled to −78° C. A solution of LiHMDS (1.0M in THF, 3.5 ml) was added and the reaction mixture was allowed to warm to ambient temperature. After 24 h the reaction was quenched by adding a solution of HCl in dioxane (4.0M, 2.0 ml). The volatiles were removed in vacuo and the crude material was purified by flash chromatography using silica gel and a gradient of 0-10% methanol in DCM as eluent to give 215 mg (701 μmol; 70% yield) of pure desired product.

reactant | 4-Bromo-2-methylaniline | 1.00 mmol, 186 mg | BrC1=CC(=C(N)C=C1)C | C7H8BrN
reactant | 3-fluoropyridine-4-carboxylic acid | 1.00 mmol, 141 mg | FC=1C=NC=CC1C(=O)O | C6H4FNO2
reactant | LiHMDS | 1.0M, 3.5 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 6.0 ml | C1CCOC1 | C4H8O
product | 3-[(4-Bromo-2-methylphenyl)amino]isonicotinic acid | 70% yield | BrC1=CC(=C(C=C1)NC1=C(C(=O)O)C=CN=C1)C | C13H11BrN2O2
